Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
clindamycin / Keflex
 
Attending: ___.
 
Chief Complaint:
rash

 
Major Surgical or Invasive Procedure:
Skin biopsy ___

 
History of Present Illness:
___ w CKD3, AF on AC s/p ablation/PPM, HTN, HLD p/w rash.
Was in USOH until ___ when was cutting toenails, nicked his
skin, then put on Neosporin, then on ___ because it was 
getting
more red he went to BID-P and was given clindamycin. The next
morning (___) he woke up with a rash that started initially in
his scalp/neck/shoulders and then moved downwards over the next
several days. He saw his PCP ___ ___ and was switched to 
Keflex.
he took that a couple doses and then on ___ given progression
of rash was started on Zantac and Claritin. Given progression of
rash he came to BID-P and was found to have total body rash. In
___ received Benadryl 50, solumedrol 125, 2L NS, Pepcid,
vanc IV. Was going to be admitted but given possible concern for
SJS was transferred here
Here: 97.6 80 132/87 16 98%RA. 
Noted to have total body rash.
WBC elevated, Cr 1.3
diphenhydramine, cepacol
Derm consulted, thought most likely SJS

He reports that he has sensitive skin in general but never had a
rash like this before. Denies new detergents/soap/etc, uses All
Sensitive. Denies f/c/n/v/d/CP. Reports one episode of DOE a
couple days ago that resolved without intervention. Negative
stress tests in the past. Denies sick contacts. Has had a bit of
a sore throat in the back the last couple days. No eye 
irritation
or urethral irritation but rash has been spreading into groin
area. Denies abdominal pain, diarrhea, dysuria, other rashes.
Reports the toe is much better than before without any
pain/irritation. Denies other OTC meds except Colace, no med
changes other than above except has increased his labetalol of
late. No confusion or HA. 

Of note, he initially thought he had the rash prior to the abx
but after thinking about it and discussing with his daughter,
they are both 100% sure this rash was AFTER clindamycin. 

ROS: positive or negative as above, otherwise negative in 12
systems

 
Past Medical History:
afib on AC, s/p ablation and PPM
CKD 3 per him, he thinks his GFR is 46, unsure of baseline Cr
HTN
hypothyroid s/p thyroid removal
s/p appy
frequent ablation of skin lesions by his dermatologist (he is 
not
sure if AKs)

 
Social History:
___
Family History:
daughter with sensitive skin

otherwise reviewed and non-contributory to current presentation

 
Physical Exam:
Admission Exam: 
Constitutional: VS reviewed, NAD
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate/lesions
CV: RRR no mrg, JVP flat
Resp: CTAB
GI: sntnd, NABS, neg hepatomegaly
GU: no foley, erythema extends across penis with a slight
irritation at meatus
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs, L ___ toe with minimal paronychia
without warmth/tenderness/purulence/fluctuance
Skin: diffuse erythema across face/back/chest/abd/groin/proximal
upper extremities/proximal lower extremities with confluent
erythema, macular spots across distal upper/lower extremities
with some palmar but as yet no plantar involvement, no ocular or
oral involvement  
Neuro: A&Ox3, DOWB intact, ___ BUE/BLE, SILT BUE/BLE, CN II-XII
intact
Psych: normal affect, pleasant

 
Pertinent Results:
___ 08:30AM BLOOD WBC-28.2* RBC-5.18 Hgb-15.0 Hct-46.4 
MCV-90 MCH-29.0 MCHC-32.3 RDW-15.4 RDWSD-50.6* Plt ___
___ 04:55PM BLOOD WBC-24.5* RBC-5.35 Hgb-15.4 Hct-47.2 
MCV-88 MCH-28.8 MCHC-32.6 RDW-15.1 RDWSD-49.1* Plt ___
___ 08:30AM BLOOD Neuts-86.4* Lymphs-5.5* Monos-3.2* 
Eos-2.5 Baso-0.5 Im ___ AbsNeut-24.36* AbsLymp-1.55 
AbsMono-0.89* AbsEos-0.69* AbsBaso-0.14*
___ 07:48AM BLOOD ___
___ 08:30AM BLOOD ___ PTT-34.3 ___
___ 04:55PM BLOOD ___ PTT-36.6* ___
___ 04:55PM BLOOD Glucose-176* UreaN-29* Creat-1.6* Na-138 
K-4.6 Cl-101 HCO3-22 AnGap-15
___ 08:30AM BLOOD Glucose-114* UreaN-34* Creat-1.5* Na-137 
K-4.8 Cl-97 HCO3-22 AnGap-18
___ 07:48AM BLOOD Glucose-163* UreaN-38* Creat-1.4* Na-139 
K-4.5 Cl-101 HCO3-22 AnGap-16
___ 08:30AM BLOOD ALT-19 AST-23 AlkPhos-72 TotBili-1.0
___ 04:55PM BLOOD cTropnT-<0.01
___ 07:48AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.1

Skin biopsy ___: 
Mild epidermal hyperplasia with rare dyskeratosis and 
superficial perivascular lymphocytic inflammation with prominent 
eosinophils and occasional neutrophils
 
Brief Hospital Course:
___ w AF on AC, HTN who presents with rash which was initially 
concerning for ___ (so transferred to 
___ but later determined to be acute generalised 
exanthematous pustulosis (AGEP) v. morbilliform drug eruption 
secondary to Clindamycin or less likely Keflex.  

#Acute generalised exanthematous pustulosis (AGEP) v. 
morbilliform drug eruption - with biopsy not showing any 
features of ___, which was initially 
suspected on admission.  The patient was admitted to the 
hospitalist service with dermatology following. Per dermatology, 
he was initially given Solumedrol 125 daily, ___, and ___, 
as well as topical steroids.  The systemic steroids were 
determined to be unnecessary in affecting the natural course of 
his rash, but because he received symptomatic relief from 
systemic steroids, he was given Prednisone 40mg PO daily ___ 
and for 4 additional days on discharge.  He was told that the 
rash will take ___ weeks to resolve, will likely have 
significant peeling, but is not dangerous for desquamation or 
organ involvement. 

We will continue topical clobetasol ointment 0.05% BID for 
symptomatic
relief of the patient's pruritus on trunk and limbs.  He was 
originally given Aquaphor for face/neck/groin not effective, so 
added Hydrocortisone 2.5% BID x 10 days per Dermatology starting 
on ___.  He initially had s/p 2L IVF in ED at ___ then 
additional IVF; however, he was able to drink and eat without 
difficulty, so this was unnecessary to continue and stopped on 
___. He did not have any oral lesions, but wanted to have oral 
steroid rinse on hand in the event that he did develop them.  
  
On admission, we initially stopped all of his non-essential 
medications such as Atorvastatin, ACEi, and Colace.  But when 
Clindamycin (and possibly Keflex) was determined to be the 
culprit, all of his home medications were restarted on ___.  
Clindamycin is listed as a definite, severe allergy; Keflex is 
also listed as possible, but severe allergy. 

He was also initially started on dexamethasone swish/spit prn, 
but since he had no mouth or oral ulcers, this was discontinued. 
 There was never evidence of systemic infection.  However, there 
was redness in his ___ toe.  In discussion with Dermatology, 
Bactrim, Doxycycline, and Quinolones would be fine to use now or 
in the future.  We elected to treat his red toe with topical 
antibiotics.  If this is unsuccessful, I gave him an Rx for 
Bactrim 1 DS pill BID x7 days that he can fill if it were to 
become more red or painful.  

#Leukocytosis - the patient's WBC on admission was 24.5, but 
this was after he received steroids. However, we wanted to 
rule-out systemic infection.  Urine culture had final no growth 
and blood cultures ___ showed no growth at 48 hours. In 
addition, the CXR was negative for infection, and there was no 
evidence of cellulitis  and rose after steroids but elevated at 
OSH even
before that, likely some component of steroid effect but also
want to r/o infection. CXR neg, no evidence of cellulitis, blood 
and urine cultures no growth to date. 

# CKD: unclear baseline but reportedly CKD 3 w GFR 46. 1.7 Cr at
OSH, 1.6 here. Hypovolemic currently.  There is no suspected 
renal involvement given rash.  He can follow-up with his PCP as 
an outpatient.  

#Hypothyroid - continued home synthroid 

# anxiety: - cont home Xanax BID for now

# Atrial Fibrillation on AC, s/p ablation and subsequent 
pacemaker placement 
- Warfarin dose on ___ was held out of concern that he may 
develop bleeding if skin desqumated, but since SJS was 
ruled-out, this was restarted on ___.  Because his INR was 
3.0, he was given 2.5mg instead of his normal 5mg on ___.  


# DOE a few days ago: CXR neg. EKG unremarkable relatively
- no evidence of MI 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO TID:PRN constipation 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Labetalol 150 mg PO BID 
4. Atorvastatin 10 mg PO QPM 
5. Ramipril 10 mg PO DAILY 
6. ALPRAZolam 0.5 mg PO BID 
7. Warfarin 2.5 mg PO 4X/WEEK (___) 
8. Warfarin 5 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
RX *clobetasol 0.05 % Apply to body - NOT face, neck, or groin 
twice a day Disp #*60 Gram Gram Refills:*3 
2.  Dexamethasone Oral Soln (0.1mg/1mL) 5 mL ORAL TID:PRN mouth 
pain  
Swish and Spit 
RX *dexamethasone 0.5 mg/5 mL 5 ml by mouth three times a day 
Refills:*1 
3.  Hydrocortisone Oint 2.5% 1 Appl TP BID Duration: 10 Days 
RX *hydrocortisone 2.5 % Apply to face, neck, groin twice a day 
Refills:*3 
4.  Neomycin-Polymyxin-Bacitracin 1 Appl TP BID  
5.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*8 
Tablet Refills:*0 
6.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 
7.  ALPRAZolam 0.5 mg PO BID  
8.  Atorvastatin 10 mg PO QPM  
9.  Docusate Sodium 100 mg PO TID:PRN constipation  
10.  Labetalol 150 mg PO BID  
11.  Levothyroxine Sodium 75 mcg PO DAILY  
12.  Ramipril 10 mg PO DAILY  
13.  Warfarin 2.5 mg PO 4X/WEEK (___)  
14.  Warfarin 5 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute generalised exanthematous pustulosis (AGEP) v. 
morbilliform drug eruption 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a severe drug reaction, thought to be 
from the antibiotic Clindamycin, but possibly also from the 
antibiotic Keflex.  Biopsy did not look like this was ___ 
___.  This rash will take ___ weeks to improve.  
Steroid cream and pills will help your symptoms, but will not 
alter the progression of your rash.  You should tell doctors in 
the future not to give you Clindamycin or Keflex.  Dermatology 
said that the following antibiotics in the future are 
acceptable: Bactrim, Doxycycline, and a class called Quinolones 
that includes Cipro, Levofloxacin, and Moxifloxacin.   You will 
improve with time as well as steroids. 

For your toe, try topical antibiotics over the weekend.  If the 
redness is worse or your toe becomes painful, you can fill your 
Rx for Bactrim and take as directed.  

Best of luck in your recovery and Happy Thanksgiving!
Your ___ team 
 
Followup Instructions:
___